US07153865B2
6-Fluoro-4-(3,4-dichlorophenyl)amino-2-hydroxyquinoline
Prepared using general procedure 1; 6-Fluoro-2,4-dichloroquinolinediol (2.5 g, 13.95 mmol), 3,4-dichloroaniline (4.5 g, 27.91 mmol), 5 mL of 4 M HCl in dioxane (20 mmol) were irradiated to 180° C. (400 W max) for 40 min. Pouring onto methanol followed by collection of the solids, afforded 2.136 g of material (6.61 mmol, 47%). 1H NMR (300 MHz, DMSO): 11.48(s, 2H), 8.74(s, 1H), 7.92(dd, 1H, J=10.70, 2.60 Hz), 7.65(d, 1H, J=8.88 Hz), 7.56(d, 1H, J=2.42 Hz), 7.49(d, 1H), 7.33(m, 2H), 5.89(s, 1H).

reactant | 6-Fluoro-2,4-dichloroquinolinediol | 13.95 mmol, 2.5 g | FC=1C=C2C(=C(C(NC2=CC1)(O)Cl)O)Cl | C9H6Cl2FNO2
reactant | 3,4-dichloroaniline | 27.91 mmol, 4.5 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | HCl | 4 M, 5 mL | Cl | ClH
reactant | dioxane | 20 mmol | O1CCOCC1 | C4H8O2
product | 6-Fluoro-4-(3,4-dichlorophenyl)amino-2-hydroxyquinoline | 6.61 mmol, 2.136 g, 47% | FC=1C=C2C(=CC(=NC2=CC1)O)NC1=CC(=C(C=C1)Cl)Cl | C15H9Cl2FN2O
